US08486970B2
To a mixed liquid of 1191 mg of methyl 6-tert-butoxynicotinate and 35.7 ml of ethanol was slowly added 2153 mg of sodium borohydride, followed by stirring at 50° C. for 18 hours. After the addition of methanol, water and ethyl acetate were added thereto to carry out an extraction operation. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 0.949 g of (6-tert-butoxypyridin-3-yl)methanol.

reactant | methyl 6-tert-butoxynicotinate | 1191 mg | C(C)(C)(C)OC1=NC=C(C(=O)OC)C=C1 | C11H15NO3
reactant | ethanol | 35.7 ml | C(C)O | C2H6O
reactant | sodium borohydride | 2153 mg | [BH4-].[Na+]
reactant | methanol | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (6-tert-butoxypyridin-3-yl)methanol | 0.949 g | C(C)(C)(C)OC1=CC=C(C=N1)CO | C10H15NO2
